### PR TITLE
[Merged by Bors] - chore: generalise `zpow` lemmas from `LinearOrderedSemifield` to `GroupWithZero`

### PR DESCRIPTION
**Pull request by YaelDillies**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Field/Power.lean [hunk 1]
```diff
@@ -24,80 +24,61 @@ variable [LinearOrderedSemifield α] {a b c d e : α} {m n : ℤ}
...
     x ^ (-c) ≤ max (x ^ (-a)) (x ^ (-b)) :=
-  have : Antitone fun n : ℤ => x ^ (-n) := fun _ _ h => zpow_le_of_le hx (neg_le_neg h)
+  have : Antitone fun n : ℤ => x ^ (-n) := fun _ _ h => zpow_le_zpow_right₀ hx (neg_le_neg h)
   (this h).trans_eq this.map_min
 
+@[deprecated (since := "2024-10-08")]
 theorem zpow_le_max_iff_min_le {x : α} (hx : 1 < x) {a b c : ℤ} :
     x ^ (-c) ≤ max (x ^ (-a)) (x ^ (-b)) ↔ min a b ≤ c := by
-  simp_rw [le_max_iff, min_le_iff, zpow_le_iff_le hx, neg_le_neg_iff]
+  simp_rw [le_max_iff, min_le_iff, zpow_le_zpow_iff_right₀ hx, neg_le_neg_iff]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Field/Power.lean:81]: Why deprecate those?

File: Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean [hunk 2]
```diff
@@ -1428,12 +1496,22 @@ lemma one_div_nonpos : 1 / a ≤ 0 ↔ a ≤ 0 := one_div a ▸ inv_nonpos
 lemma div_nonpos_of_nonneg_of_nonpos [PosMulMono G₀] (ha : 0 ≤ a) (hb : b ≤ 0) : a / b ≤ 0 := by
   rw [div_eq_mul_inv]; exact mul_nonpos_of_nonneg_of_nonpos ha (inv_nonpos.2 hb)
 
-lemma inv_lt_one_iff₀ [PosMulStrictMono G₀] : a⁻¹ < 1 ↔ a ≤ 0 ∨ 1 < a := by
+variable[PosMulStrictMono G₀] {m n : ℤ}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/GroupWithZero/Unbundled.lean:1499]:
```suggestion
variable [PosMulStrictMono G₀] {m n : ℤ}
```
(m and n seem to be used only once; not sure if it's worth putting them in a variable)

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Order/Field/Power.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Field/Power.lean:81]: Because they are an easy consequence of existing lemmas, and because we don't have the analogous lemmas for literally every other strictly monotone/antitone function.

I am going through the API and adding missing lemmas and removing redundant ones. I have deemed those redundant. And as you see they are used exactly once.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
